US07906645B2
1-{[(3S)-1-Benzylpiperidin-3-yl]methyl}-N-(3,4-dichlorophenyl)piperidine-4-carboxamide
To a mixture of N-(3,4-dichlorophenyl)-1-[(3R)-piperidin-3-ylmethyl]piperidine-4-carboxamide (150 mg) and benzaldehyde (0.04 mL) in dichloromethane was added sodium triacetoxyborohydride (103 mg). The reaction mixture was stirred at room temperature for 18 hours. The reaction was incomplete so sodium triacetoxyborohydride (50 mg) was added and the mixture was stirred for 48 hours. The reaction mixture was partitioned between dichloromethane and water and the organic layer was washed with brine. The organic extract was dried over magnesium sulfate and evaporated. The residue was purified by silica column chromatography, eluting with a gradient of 0 to 10% MeOH in dichloromethane to give the title compound as a white solid (28 mg, 15%)

reactant | N-(3,4-dichlorophenyl)-1-[(3R)-piperidin-3-ylmethyl]piperidine-4-carboxamide | 150 mg | ClC=1C=C(C=CC1Cl)NC(=O)C1CCN(CC1)C[C@H]1CNCCC1 | C18H25Cl2N3O
reactant | benzaldehyde | 0.04 mL | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium triacetoxyborohydride | 103 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium triacetoxyborohydride | 50 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-{[(3S)-1-Benzylpiperidin-3-yl]methyl}-N-(3,4-dichlorophenyl)piperidine-4-carboxamide | 28 mg, 15% | C(C1=CC=CC=C1)N1C[C@@H](CCC1)CN1CCC(CC1)C(=O)NC1=CC(=C(C=C1)Cl)Cl | C25H31Cl2N3O
